US08049015B2
3-Benzyl-1-(2-bromo-5-trifluoromethyl-benzyl)-1-ethyl-urea and bis(pinacolato)diboron were reacted as described in Example 11, Step 3 to provide 3-benzyl-1-ethyl-1-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-urea.

reactant | 3-Benzyl-1-(2-bromo-5-trifluoromethyl-benzyl)-1-ethyl-urea | C(C1=CC=CC=C1)NC(N(CC)CC1=C(C=CC(=C1)C(F)(F)F)Br)=O | C18H18BrF3N2O
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 3-benzyl-1-ethyl-1-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-urea | C(C1=CC=CC=C1)NC(N(CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C)CC)=O | C24H30BF3N2O3
